US08026257B2
(6-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-yl)methanol.
A solution of 6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-4-carbaldehyde (0.95 g, 2.77 mmol) in methanol (20 ml) at 25° C. was treated with sodium borohydride (0.209 g, 5.53 mmol) and stirred for 1 h. The resulting solution was concentrated in vacuo, taken up in ethyl acetate, washed with brine, dried over sodium sulfate and re-concentrated to a light yellow oil. Column chromatography (ethyl acetate/hexanes gradient elution) afforded 0.91 g (95%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ ppm 7.74 (s, 1H), 7.41 (m, 2H), 6.73 (m, 1H), 5.46 (s, 2H), 5.10 (s, 2H), 3.46 (m, 2H), 0.88 (m, 2H), −0.07 (s, 9H). Mass spec.: 346.17 (MH)+.

reactant | 6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-4-carbaldehyde | 2.77 mmol, 0.95 g | FC(C=1C=C(C=2C=CN(C2C1)COCC[Si](C)(C)C)C=O)(F)F | C16H20F3NO2Si
reactant | sodium borohydride | 5.53 mmol, 0.209 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (6-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-yl)methanol | FC(C1=CC(=C2C=CN(C2=C1)COCC[Si](C)(C)C)CO)(F)F | C16H22F3NO2Si
